US08258131B2
(1) Preparation of 7-chloro-4-(4-fluorophenyl)-2,2-dimethyl-3-vinyl-2H-chromen
A mixture of 3-bromo-7-chloro-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen (a compound obtained in Reference Example 8(1); 220 mg), tributyl(vinyl)tin (350 μL) and tetrakis(triphenylphosphine)palladium(0) (140 mg) in dioxane was heated under reflux for 23 hours. After cooling, the reaction solution was diluted with ethyl acetate, a saturated aqueous solution of potassium fluoride was added thereto, and the mixture was stirred at room temperature for an hour. The reaction solution was filtered through Celite and the filtrate was extracted with ethyl acetate. The organic layer was washed successively with water and brine, filtered through a column of porous diatomite (Chem Elut) and the filtrate was concentrated in vacuo. The resultant residue was purified by column chromatography on silica gel (Solvent: n-hexane/chloroform=100/0 to 95/5) to give the titled compound (157 mg) as a pale yellow viscous oil.

reactant | 3-bromo-7-chloro-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen | BrC=1C(OC2=CC(=CC=C2C1C1=CC=C(C=C1)F)Cl)(C)C | C17H13BrClFO
reactant | tributyl(vinyl)tin | 350 μL | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 140 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-chloro-4-(4-fluorophenyl)-2,2-dimethyl-3-vinyl-2H-chromen | 157 mg | ClC1=CC=C2C(=C(C(OC2=C1)(C)C)C=C)C1=CC=C(C=C1)F | C19H16ClFO
